US07015213B1
6-(2-chlorophenyl)-7,10-dihydro-1-methyl-N-(2-trifluoromethylbenzyl)-4H-pyrido[4′,3′;4,5]thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-9(8H)-carbothioamide
A mixture containing 2-trifluoromethylbenzylisothiocyanate (1 g, 0.0046 mol) and 6-(2-chlorophenyl)-7,8,9,10-tetrahydro-1-methyl-4H-pyrido[4′,3′;4,5]thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine (1.22 g, 0.0033 mol) in 20 ml of dichloromethane is agitated at a temperature close to 20° C. for 1 hour. The reaction mixture is evaporated to dryness. 40 ml of ethyl acetate is added to the residual oil. After separation of the insoluble part, the solvent is evaporated off. 40 ml of isopropyl ether is added until precipitation of the product then filtration on frit and washing with isopropyl ether. The solid obtained (1.2 g, 63%) is dried and a beige powder is obtained. Melting point: 178–184° C.

reactant | 2-trifluoromethylbenzylisothiocyanate | 0.0046 mol, 1 g | FC(C1=C(CN=C=S)C=CC=C1)(F)F | C9H6F3NS
reactant | 6-(2-chlorophenyl)-7,8,9,10-tetrahydro-1-methyl-4H-pyrido[4′,3′;4,5]thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 0.0033 mol, 1.22 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C1=C(S3)CNCC1)C(=NN2)C | C18H16ClN5S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-(2-chlorophenyl)-7,10-dihydro-1-methyl-N-(2-trifluoromethylbenzyl)-4H-pyrido[4′,3′;4,5]thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-9(8H)-carbothioamide | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C1=C(S3)CN(CC1)C(NCC1=C(C=CC=C1)C(F)(F)F)=S)C(=NN2)C | C27H22ClF3N6S2
